US05864039
Aluminum chloride (1.23 g) was added to a solution of 7-bromoheptanoyl chloride (2 g) in benzene (20 ml) under ice-cooling, which was followed by stirring at room temperature for 1 hr. Ice water and conc. hydrochloric acid were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, dried and the solvent was evaporated. The obtained residue was purified by silica gel column chromatography to give 0.93 g of 7-bromo-1-phenyl-1-heptanone.

reactant | Aluminum chloride | 1.23 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 7-bromoheptanoyl chloride | 2 g | BrCCCCCCC(=O)Cl | C7H12BrClO
reactant | hydrochloric acid | Cl | ClH
reactant | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 7-bromo-1-phenyl-1-heptanone | 0.93 g | BrCCCCCCC(=O)C1=CC=CC=C1 | C13H17BrO
